US04007209
82 parts of p-anisoin are reacted with 34 parts of 3,4-dihydro-2H-pyran (approx. 35% molar excess) in 500 parts by volume of benzene, analogeously to Example 1. p-anisoin tetrahydropyranyl ether is obtained in a yield of 71.6% and melts over the range of 96° to 102° C.

reactant | p-anisoin | C1(=CC=C(OC)C=C1)C(=O)C(O)C1=CC=C(OC)C=C1 | C16H16O4
reactant | 3,4-dihydro-2H-pyran | O1CCCC=C1 | C5H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-anisoin tetrahydropyranyl ether | yield of 71.6% | O1C(CCCC1)OC(C(C1=CC=C(OC)C=C1)=O)C1=CC=C(OC)C=C1 | C21H24O5
